US07897777B2
The organic layer was dewatered by azeotropic distillation under vacuum and was concentrated in vacuum to give D-threo-methylphenidate free base as an oil, which was used directly in hydrochloride salt formation. The solution of D-threo-methylphenidate free base in isopropanol (0.29 Kg) was charged to a jacketed vessel, cooled to 5-10° C. and treated with a solution of 37% HCl (78 g) in a mixture of isopropanol (40 g) and methanol (63 g) at less than 20° C. The formed slurry was cooled to 0 to 5° C., aged for 2 hours and filtered. The wet cake was washed with isopropanol (0.32 Kg total) in two portions and dried under vacuum at 45° C. for 16 hours to give Dexmethylphenidate hydrochloride (0.175 Kg, 0.649 mol, 86% yield) as a off-white solid; mp 206.4° C., ee 99.7%, α25D +83° (c 1 wt %, MeOH).

reactant | D-threo-methylphenidate | COC(=O)[C@@H]([C@H]1CCCCN1)C2=CC=CC=C2 | C14H19NO2
reactant | HCl | 78 g | Cl | ClH
solvent | isopropanol | 0.29 Kg | C(C)(C)O | C3H8O
solvent | isopropanol | 40 g | C(C)(C)O | C3H8O
solvent | methanol | 63 g | CO | CH4O
product | Dexmethylphenidate hydrochloride | 0.649 mol, 0.175 Kg, 86% yield | COC(=O)[C@H](C=1C=CC=CC1)[C@H]2CCCCN2.Cl | InChI=1S/C14H19NO2.ClH/c1-17-14(16)13(11-7-3-2-4-8-11)12-9-5-6-10-15-12;/h2-4,7-8,12-13,15H,5-6,9-10H2,1H3;1H/t12-,13-;/m1./s1
